US06037488
5-Ethynyl-2-hydroxy-4'-methylbenzophenone (Compound F1)
To a solution of 100 mg (0.3 mmol) of 2-acetoxy-5-trimethylsilanylethynyl-4'-methylbenzophenone (Compound X) in 5 mL of tetrahydrofuran (under a blanket of argon) was added 0.86 mL (0.86 mmol) of tetrabutylammonium fluoride (1M in tetrahydrofuran). The resultant yellow solution was stirred at ambient temperature for 30 minutes, diluted with water (1 mL), extracted between ethyl ether and 10% HCl (aq.) solution, the layers separated and the aqueous phase washed with ethyl ether. The organic phases were combined, dried over MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography (silica, 3% ethyl acetate in hexane) gave the title compound as an oil.

reactant | 2-acetoxy-5-trimethylsilanylethynyl-4'-methylbenzophenone | 0.3 mmol, 100 mg | C(C)(=O)OC1=C(C(=O)C2=CC=C(C=C2)C)C=C(C=C1)C#C[Si](C)(C)C | C21H22O3Si
reactant | tetrabutylammonium fluoride | 0.86 mmol, 1M, 0.86 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 5-Ethynyl-2-hydroxy-4'-methylbenzophenone | C(#C)C=1C=CC(=C(C(=O)C2=CC=C(C=C2)C)C1)O | C16H12O2
